US08377949B2
(S)-[1-(1,4-Dimethyl-1H-indol-3-ylmethyl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-phenyl-acetic acid
To a solution of (S)-[1-(1,4-dimethyl-1H-indol-3-ylmethyl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-phenyl-acetic acid methyl ester (100 mg, 0.21 mmol) in dioxane (2.5 ml) is added a solution of LiOH monohydrate (25 mg, 0.60 mmol) in H2O (2.5 mL). The solution is stirred at 60° C. for 4 hours. The reaction mixture is allowed to cool to room temperature, quenched with 4M HCl in dioxane (500 μL) and is concentrated. The resulting residue is purified by flash chromatography with 10% MeOH in dichloromethane as the eluent to afford the title compound. LCMS (ESMS): m/z 454.19 (M+H+).

reactant | (S)-[1-(1,4-dimethyl-1H-indol-3-ylmethyl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-phenyl-acetic acid methyl ester | 0.21 mmol, 100 mg | COC([C@H](C1=CC=CC=C1)N1C(N(C2=CC=CC=C2C1=O)CC1=CN(C2=CC=CC(=C12)C)C)=O)=O | C28H25N3O4
solvent | dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
solvent | H2O | 2.5 mL | O | H2O
product | (S)-[1-(1,4-Dimethyl-1H-indol-3-ylmethyl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-phenyl-acetic acid | CN1C=C(C2=C(C=CC=C12)C)CN1C(N(C(C2=CC=CC=C12)=O)[C@H](C(=O)O)C1=CC=CC=C1)=O | C27H23N3O4
